US07294635B2
Step 2: Preparation of 2-(4-aminophenyl)-7-fluoro-6-(methylamino)-3,4-dihydroisoquinolin-1(2H)-one
A mixture of 7-fluoro-6-(methylamino)-3,4-dihydroisoquinolin-1(2H)-one (70 mg, 0.36 mmol), 4-iodoaniline (119 mg, 0.543 mmol), CuI (27 mg, 0.14 mmol), 1,2-diaminocyclohexane (44 uL, 0.36 mmol) and K3PO4 (153 mg, 0.722 mmol) in dioxane (1.5 mL) was heated at 110° C. overnight, then diluted with CH3CN (5 mL) and H2O (5 mL) and filtered. The filtrate was purified by RP-HPLC to give the noted intermediate compound as a solid (62 mg). ES-MS (M+H)+=286.

reactant | 7-fluoro-6-(methylamino)-3,4-dihydroisoquinolin-1(2H)-one | 0.36 mmol, 70 mg | FC1=C(C=C2CCNC(C2=C1)=O)NC | C10H11FN2O
reactant | 4-iodoaniline | 0.543 mmol, 119 mg | IC1=CC=C(N)C=C1 | C6H6IN
reactant | 1,2-diaminocyclohexane | 0.36 mmol, 44 uL | NC1C(CCCC1)N | C6H14N2
reactant | K3PO4 | 0.722 mmol, 153 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | CH3CN | 5 mL | CC#N | C2H3N
solvent | H2O | 5 mL | O | H2O
catalyst | CuI | 0.14 mmol, 27 mg | [Cu]I
product | 2-(4-aminophenyl)-7-fluoro-6-(methylamino)-3,4-dihydroisoquinolin-1(2H)-one | 62 mg | NC1=CC=C(C=C1)N1C(C2=CC(=C(C=C2CC1)NC)F)=O | C16H16FN3O
